US07037932B2
a) 2-Bromo-5-fluoroanisole
To a suspension of 2-bromo-5-fluorophenol (20.0 g, 104.7 mmol) and potassium carbonate (21.71 g, 157.1 mmol) in acetone (200 mL) was added dimethyl sulphate (10.90 mL, 115.2 mmol). The resulting suspension was allowed to stir at 60° C. for 2 h before being allowed to cool and then concentrated in vacuo. The residue was dissolved in ether (200 mL) and water (100 mL). The organic phase was washed with aqueous hydrochloric acid (2 N, 50 mL), saturated sodium bicarbonate solution (50 mL) with the resulting organic phase being dried (MgSO4) and the solvent evaporated in vacuo to give a pale yellow oil (21.46 g, 100%). δH (300 MHz, CDCl3) 7.45 (1H, dd, Ar), 6.70–6.55 (2H, m, Ar), 3.90 (3H, s, OCH3).

reactant | 2-bromo-5-fluorophenol | 104.7 mmol, 20.0 g | BrC1=C(C=C(C=C1)F)O | C6H4BrFO
reactant | potassium carbonate | 157.1 mmol, 21.71 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulphate | 115.2 mmol, 10.90 mL | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | 200 mL | CC(=O)C | C3H6O
product | 2-Bromo-5-fluoroanisole | 21.46 g, 100% | BrC1=C(C=C(C=C1)F)OC | C7H6BrFO
